US07399780B2
3-{5-[(4-Methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-5-(1,3-oxazol-5-yl)-1H-indol-2-ol
The title compound was prepared as described for Example 101 using 1-[(6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine (described in: Thunus L., Annales Pharmaceutiques Francaises 1977, 35, 197-203) and 5-(1,3-oxazol-5-yl)-1,3-dihydro-2H-indol-2-one. The crude product was purified on a silica gel column using chloroform/methanol/conc NH3(aq), (100:10:1), as the eluent followed by trituration in ethyl acetate. Yield: 1% of the title compound: MS (ES) m/z 441 (M++1).

reactant | 1-[(6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C | C10H14ClN3O2S
reactant | 5-(1,3-oxazol-5-yl)-1,3-dihydro-2H-indol-2-one | O1C=NC=C1C=1C=C2CC(NC2=CC1)=O | C11H8N2O2
product | 3-{5-[(4-Methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-5-(1,3-oxazol-5-yl)-1H-indol-2-ol | Yield: 1% | CN1CCN(CC1)S(=O)(=O)C=1C=CC(=NC1)C1=C(NC2=CC=C(C=C12)C1=CN=CO1)O | C21H21N5O4S
